### PR TITLE
Computable verticesThatReach

### PR DESCRIPTION
**Pull request by jt0202**
This PR shows that verticesThatReach is actually computable. 

We show that by first showing that `isWalk` is decidable . Afterwards, we show that if two nodes are connected by a walk, then this walk has at most length of the number of vertices in the graph by implementing the `walk.dedup` operation. Finally, we provide a operation that generates a list of vertices less than a certain length. By filtering this list by `isWalk` we can see whether two nodes are connected.

This is obviously not efficient, but we are doing computability theory after all:)

### CODE REVIEW

File: CertifyingDatalog/Datastructures/List.lean [hunk 1]
```diff
@@ -410,3 +411,319 @@ namespace List
     rw [List.getLast_eq_getElem]
     simp [this]
 end List
+
+
+section dedup
+  variable {A : Type u} [DecidableEq A]
+
+  def List.drop_until (l : List A) (a : A) : List A :=
```
Comment (monsterkrampe) [inline CertifyingDatalog/Datastructures/List.lean:419]: Did you consider using `List.dropWhile`? (There might be good reasons to not use it, I'm just asking.)

File: CertifyingDatalog/Datastructures/List.lean [hunk 2]
```diff
@@ -410,3 +411,319 @@ namespace List
...
+    | nil => simp [drop_until]
+    | cons hd tl ih =>
+      simp [drop_until]
+      split
+      · exact h
+      · apply ih
+        simp at h
+        exact h.2
+
+  def List.walk_dedup (l : List A) : List A :=
```
Comment (monsterkrampe) [inline CertifyingDatalog/Datastructures/List.lean:497]: I find the name `dedup` confusing especially because `List.dedup` exists and does something quite different.
Here, we just aim to remove "cyclic prefixes" from walks? I think I also did not fully understand why we do this but maybe I will when reading the remaining code :)

File: CertifyingDatalog/Datastructures/List.lean [hunk 3]
```diff
@@ -410,3 +411,319 @@ namespace List
...
+      · rename_i mem
+        simp [mem] at h1
+
+end dedup
+
+section generateAll
+  variable {A : Type u} [DecidableEq A]
+
+  --suggested by Eric Wieser on zulip
+  def generateAll (l : List A) (n : ℕ) : List (List A) :=
```
Comment (monsterkrampe) [inline CertifyingDatalog/Datastructures/List.lean:683]: I think the name should be more specific. Maybe `allSublistsOfLengthAtMost`? Although sublist might imply that order of elements is preserved which I don't think is true here.

File: CertifyingDatalog/GraphValidation/Walks.lean [hunk 4]
```diff
@@ -394,13 +433,164 @@ namespace Walk
       have applied_takeUntil_getLast_is_target := w.tail.takeUntil_getLast_is_target (w.val.head neq) h
       rw [List.getLast_eq_getElem] at applied_takeUntil_getLast_is_target
       rw [applied_takeUntil_getLast_is_target]
+
+    omit [Hashable A] in
+    theorem _root_.List.drop_until_isWalk_of_isWalk [Hashable A] {G : Graph A} {l : List A} {a : A} (h : l.isWalk G) :
```
Comment (monsterkrampe) [inline CertifyingDatalog/GraphValidation/Walks.lean:438]: Instead of using `omit`, `[Hashable A]` could really just be dropped, no?

Also, why do we not define this directly for a `(w : Walk G)` instead of `l`? This would make `h` obsolete and the statement of the theorem would be `(w.val.drop_until a).isWalk G`.

File: CertifyingDatalog/GraphValidation/Walks.lean [hunk 5]
```diff
@@ -394,13 +433,164 @@ namespace Walk
...
+    def dedup {G : Graph A} (w : Walk G) : Walk G := ⟨List.walk_dedup w.1, List.walk_dedup_isWalk w⟩
+
 end Walk
 
 namespace Graph
   def isAcyclic (G: Graph A) := ∀ (w: Walk G), ¬ w.isCycle
 
   def canReach (G : Graph A) (a b : A) : Prop := ∃ (w : Walk G) (neq : w.val ≠ []), (w.val.head neq) = a ∧ (w.val.getLast neq) = b
 
+  theorem canReach_iff_canReach_with_at_most_vertice_length (G : Graph A) (a b : A) :
```
Comment (monsterkrampe) [inline CertifyingDatalog/GraphValidation/Walks.lean:543]: `canReach_iff_canReach_with_at_most_vertices_length`

**Review by monsterkrampe — CHANGES_REQUESTED** [review]
Thank you very much for the effort! My comments are mainly about naming/namespace decisions :)

File: CertifyingDatalog/Datastructures/List.lean (hunk 1 above)
Comment (jt0202) [reply CertifyingDatalog/Datastructures/List.lean:419]: I didn't know that it existed, but I don't think the proofs will be easier if we base it on this instead.

File: CertifyingDatalog/Datastructures/List.lean (hunk 2 above)
Comment (jt0202) [reply CertifyingDatalog/Datastructures/List.lean:497]: It removes more than cylic prefixes of the walk but instead any cycle occuring in the walk. By that the walk no longer contains duplicates and has therefore a maximum size. The normal `dedup` operation would however destroy the walk property of the list with this implementation preserves.

File: CertifyingDatalog/Datastructures/List.lean (hunk 3 above)
Comment (jt0202) [reply CertifyingDatalog/Datastructures/List.lean:683]: It generates all lists where all elements are members of l and that have at most length n. I guess we could call it `allListAtLengthAtMostAndSubset`.

File: CertifyingDatalog/GraphValidation/Walks.lean (hunk 4 above)
Comment (jt0202) [reply CertifyingDatalog/GraphValidation/Walks.lean:438]: Copy paste error.
We can't do induction on the walk directly, so I moved it into the proof as a suffices statement now.

File: CertifyingDatalog/Datastructures/List.lean (hunk 2 above)
Comment (monsterkrampe) [reply CertifyingDatalog/Datastructures/List.lean:497]: Should we rename this to `removeCycles` then?

File: CertifyingDatalog/Datastructures/List.lean (hunk 1 above)
Comment (monsterkrampe) [reply CertifyingDatalog/Datastructures/List.lean:419]: I also don't know without trying it out. I'm fine with keeping this as is :)

File: CertifyingDatalog/GraphValidation/Walks.lean (hunk 4 above)
Comment (monsterkrampe) [reply CertifyingDatalog/GraphValidation/Walks.lean]: Ah yes, I suppose `induction walk.val` does not work so well...
I would maybe still keep this in the `Walk` namespace.
Alternatively one could thinking about defining a recursor for walks but this is likely overkill :sweat_smile:

File: CertifyingDatalog/Datastructures/List.lean (hunk 3 above)
Comment (jt0202) [reply CertifyingDatalog/Datastructures/List.lean]: It is already changed to use suffices in the proof.

File: CertifyingDatalog/GraphValidation/Walks.lean (hunk 4 above)
Comment (jt0202) [reply CertifyingDatalog/GraphValidation/Walks.lean]: It lives now in the `Walk` namespace by using suffices.
